US04652652
To a solution of 2-(2-benzyloxycarbonylamino-4-thiazolyl)malonic acid diethyl ester in tetrahydrofuran (20 parts) are added sodium hydride (2.35 equivalents) and a solution of trans-3-chloroacrylic acid diphemylmethyl ester (1.2 equivalents) in tetrahydrofuran (8 parts) under ice cooling. After stirring at 35° to 40° C. for 12.5 hours, the mixture is diluted with ethyl acetate and diluted hydrochloric acid, washed with water, dried, and concentrated. The residue is chromatographed over silica gel. The fraction eluted with a mixture of benzene and ethyl acetate (15:1) is crystallized from ethyl acetate to give 3-diphenylmethoxycarbonyl-1-(2-benzyloxycarbonylamino-4-thiazolyl)-2-propene-1,1-dicarboxylic acid diethyl ester.

reactant | 2-(2-benzyloxycarbonylamino-4-thiazolyl)malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)C=1N=C(SC1)NC(=O)OCC1=CC=CC=C1)=O | C18H20N2O6S
reactant | sodium hydride | 2.35 equivalents | [H-].[Na+]
reactant | trans-3-chloroacrylic acid | 1.2 equivalents | Cl/C=C/C(=O)O | C3H3ClO2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | Cl | ClH
product | 3-diphenylmethoxycarbonyl-1-(2-benzyloxycarbonylamino-4-thiazolyl)-2-propene-1,1-dicarboxylic acid diethyl ester | C(C)OC(=O)C(C=CC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)(C(=O)OCC)C=1N=C(SC1)NC(=O)OCC1=CC=CC=C1 | C34H32N2O8S
